US07253286B2
4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid (2-ethoxyethyl)-amide
4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid (50 mg) was treated with ethoxyethylamine, triethylamine and benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate in the same manner as Example 634, to obtain the title compound (18 mg) as a solid.

reactant | 4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid | 50 mg | C(C)NC(NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)F)=O | C20H18FN3O5
reactant | ethoxyethylamine | C(C)OCCN | C4H11NO
reactant | benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid (2-ethoxyethyl)-amide | 18 mg | C(C)OCCNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCC)F | C24H27FN4O5
